US04086242
Preparation of N-(1-Ethylpropyl)-o-phenylenediamine
In a 2 liter hydrogenator is placed 2.5 g. of 10% palladium on carbon catalyst, 800 ml. of absolute alcohol and 250 g. of o-nitro-N-(1-ethylpropyl) aniline. Hydrogen is introduced and the reduction is complete in about 21/2 hours. The reaction is exothermic and the temperature subsides as the reaction goes to completion. The catalyst is removed by filtration and the ethanol is evaporated to yield a nearly quantitative yield (214 g.) of product as a dark oil. A pure sample is obtained by vacuum distillation, b.p. 2.0 mm Hg=125°-126° C.

reactant | o-nitro-N-(1-ethylpropyl) aniline | [N+](=O)([O-])C1=C(NC(CC)CC)C=CC=C1 | C11H16N2O2
reactant | Hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
product | N-(1-Ethylpropyl)-o-phenylenediamine | quantitative yield | C(C)C(CC)NC1=C(C=CC=C1)N | C11H18N2
